US08067445B2
Step 2: [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester
(3-Bromo-4-methoxy-phenyl)-acetic acid methyl ester (5.1 g, 19.68 mmol), bis(pinacolato)diboron (6.54 g, 25.59 mmol), and potassium acetate (5.80 g, 59.05 mmol) were combined in DMF (100 mL) under N2. The solution was purged with N2, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.805 g, 0.98 mmol) was added and the reaction was heated to 85° C. overnight. Starting material was still observed after 16 hours, so additional (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.808 g, 0.98 mmol) was added, and the reaction was stirred at 85° C. overnight. Once no starting material was seen by analytical LCMS, the mixture was cooled to room temperature and concentrated. The residue was partitioned between EtOAc and H2O and filtered through Celite. The aqueous layer was separated and extracted with EtOAc, and the combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (3-Bromo-4-methoxy-phenyl)-acetic acid methyl ester | 19.68 mmol, 5.1 g | COC(CC1=CC(=C(C=C1)OC)Br)=O | C10H11BrO3
reactant | bis(pinacolato)diboron | 25.59 mmol, 6.54 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 59.05 mmol, 5.80 g | C(C)(=O)[O-].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.98 mmol, 0.805 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.98 mmol, 0.808 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO5
